US06329370B1
1-(3,5-Dichloro-pyridin-4-ylmethyl)-6-difluoromethoxy-4-morpholin-4-yl-phthalazine (Compound 55)
A suspension under N2 of 4-chloro-1-(3,5-dichloro-pyridin-4-ylmethyl)-6-difluoromethoxy-phthalazine (5.5 g, 14.1 mmoles), prepared as described in example 99, in morpholine (11 ml) was heated at 100° C. for 1 hour, then cooled and poured into water (150 ml). A solid formed and was stirred for 15 minutes, then filtered, washed with water, dried over P2O5 at 50° C. under high vacuum. There were obtained 6 g of the title compound (yield: 96%). m.p.: 128.6-130.6° C.

reactant | 4-chloro-1-(3,5-dichloro-pyridin-4-ylmethyl)-6-difluoromethoxy-phthalazine | 14.1 mmoles, 5.5 g | ClC1=NN=C(C2=CC=C(C=C12)OC(F)F)CC1=C(C=NC=C1Cl)Cl | C15H8Cl3F2N3O
reactant | water | 150 ml | O | H2O
solvent | morpholine | 11 ml | N1CCOCC1 | C4H9NO
product | 1-(3,5-Dichloro-pyridin-4-ylmethyl)-6-difluoromethoxy-4-morpholin-4-yl-phthalazine | 6 g, yield: 96% | ClC=1C=NC=C(C1CC1=NN=C(C2=CC(=CC=C12)OC(F)F)N1CCOCC1)Cl | C19H16Cl2F2N4O2
